US07932259B2
A mixture of 7-(4-bromo-2,6-dimethylphenyl)-4-chloro-2,5-dimethyl-7H-pyrrolo[2,3-d]pyrimidine (6.0 g), 4-(2-hydroxyethyl)piperidine (3.2 g), N,N-diisopropylethylamine (3.2 g) in ethanol (15 mL) was heated at reflux for 5.5 hours. The reaction mixture was cooled to room temperature, poured into a saturated aqueous sodium hydrogencarbonate, and then extracted with ethyl acetate three times. The organic layer was washed with brine, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure and purified by a silica gel column chromatography (silica gel: Wako Gel (C200), eluent: hexane/ethyl acetate=2:1) to obtain 2-{1-[7-(4-bromo-2,6-dimethyl-phenyl)-2,5-dimethyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-piperidin-4-yl}-ethanol as a white solid (6.41 g).

reactant | 7-(4-bromo-2,6-dimethylphenyl)-4-chloro-2,5-dimethyl-7H-pyrrolo[2,3-d]pyrimidine | 6.0 g | BrC1=CC(=C(C(=C1)C)N1C=C(C2=C1N=C(N=C2Cl)C)C)C | C16H15BrClN3
reactant | 4-(2-hydroxyethyl)piperidine | 3.2 g | OCCC1CCNCC1 | C7H15NO
reactant | N,N-diisopropylethylamine | 3.2 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 2-{1-[7-(4-bromo-2,6-dimethyl-phenyl)-2,5-dimethyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-piperidin-4-yl}-ethanol | 6.41 g | BrC1=CC(=C(C(=C1)C)N1C=C(C2=C1N=C(N=C2N2CCC(CC2)CCO)C)C)C | C23H29BrN4O
